US04692184
Preparation of diethyl 2,6-bis(trifluoromethyl)-2,6-dihydroxy-4-(2-furyl)-3,5-piperidinedicarboxylate
A 500 mL 3 necked flask is charged with 60 mL ethanol, 29.07 g (0.3 mole) of 2-furaldehyde and 110 g (0.6 mole) of ethyl trifluoroacetoacetate. The reaction mixture is cooled in an ice bath before 21.15 21.15 g (0.35 mol) of aqueous ammonium hydroxide is added slowly with stirring. The mixture is heated at reflux for 2 hours and cooled. The resulting precipitate is filtered and recrystallized from hot ethanol to give 53.34 g (39%) of crystals, m.p. 129°-131° C.

reactant | 2-furaldehyde | 0.3 mole, 29.07 g | O1C(=CC=C1)C=O | C5H4O2
reactant | ethyl trifluoroacetoacetate | 0.6 mole, 110 g | FC(C(CC(=O)OCC)=O)(F)F | C6H7F3O3
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | diethyl 2,6-bis(trifluoromethyl)-2,6-dihydroxy-4-(2-furyl)-3,5-piperidinedicarboxylate | 53.34 g, 39% | FC(C1(NC(C(C(C1C(=O)OCC)C=1OC=CC1)C(=O)OCC)(O)C(F)(F)F)O)(F)F | C17H19F6NO7
